US04254129
To 700 ml of carbon disulfide containing 36.5 g (0.254 mole) of 4-chlorobutyryl chloride is added 74.5 g (0.56 mole) of aluminum chloride with stirring at -10° C. Stirring is continued for about 15 minutes at about 25° C. then the mixture is recooled to 5° C. and 48.4 g (0.294 mole) of ethyl α,α-dimethylphenylacetate in 100 ml of carbon disulfide is added. The reaction mixture is stirred on an ice bath for 31/2 hours then stirred to 151/2 hours at 25° C. then poured into HCl-ice water and extracted with chloroform. The extract is washed with dilute sodium carbonate solution, water and saturated sodium chloride solution, dried over magnesium sulfate, and evaporated giving as a solid ethyl 4-(4-chloro-1-oxobutyl)-α, α-dimethylphenylacetate.

reactant | 4-chlorobutyryl chloride | ClCCCC(=O)Cl | C4H6Cl2O
reactant | aluminum chloride | 0.56 mole, 74.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethyl α,α-dimethylphenylacetate | 0.294 mole, 48.4 g | CC(C(=O)OCC)(C)C1=CC=CC=C1 | C12H16O2
solvent | carbon disulfide | 100 ml | C(=S)=S | CS2
solvent | carbon disulfide | 0.254 mole, 700 ml, 36.5 g | C(=S)=S | CS2
product | ethyl 4-(4-chloro-1-oxobutyl)-α, α-dimethylphenylacetate | ClCCCC(=O)C1=CC=C(C=C1)C(C(=O)OCC)(C)C | C16H21ClO3
